US08071776B2
C. 3-Amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a slurry of 3-amino-5-chloro-4-methyl-6-methylsulfanyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (7.5 g, 22.87 mmol) in glacial acetic acid (75 ml) is added a solution of 30% hydrogen peroxide in water (2.85 ml, 25.16 mmol). The mixture is stirred at 35° C. for 16 hour, cooled to room temperature, and poured over water (300 ml). A bright yellow precipitate is formed. The mixture is stirred at 0° C. for 1 hour then the solid is collected by filtration and dried under vacuum at 60° C. for 3 hours to afford the title compound as a bright yellow solid (5.58 g, 71%). Mass (m/z): 344.1 (M++1).

reactant | 3-amino-5-chloro-4-methyl-6-methylsulfanyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 22.87 mmol, 7.5 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)SC)S1)N | C13H14ClN3OS2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 25.16 mmol, 2.85 ml | O | H2O
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 3-Amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 5.58 g, 71% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)S(=O)C)S1)N | C13H14ClN3O2S2
